US08383931B2
Step 1: synthesis of 1,5-diphenyl-1,5-pentanedione
A solution of glutaryl chloride (10 mmol, 1.3 mL) dissolved in anhydrous dichloromethane (20 mL) is introduced into a 100 mL two-necked round-bottomed flask under an inert atmosphere. Aluminum chloride (30 mmol, 4.00 g) is added to the mixture, which immediately turns orange-yellow. A solution of benzene (20 mmol, 1.8 mL) dissolved in anhydrous dichloromethane (10 mL) is added dropwise at room temperature. The solution becomes bright red. The mixture is then refluxed for 24 hours, and turns brown-black. The mixture is then cooled to room temperature and poured into a crystallizing basin containing 20 mL of 10% acidified water, with stirring. A black solid forms, and is filtered off on a Büchner funnel. The yellow organic phase is then extracted with ethyl acetate, dried over MgSO4, filtered, concentrated on a rotary evaporator and recrystallized from 20 mL of methanol. The product obtained is a white solid in a mass of 680 mg. The reaction yield is 27%.

reactant | glutaryl chloride | 10 mmol, 1.3 mL | C(CCCC(=O)Cl)(=O)Cl | C5H6Cl2O2
reactant | Aluminum chloride | 30 mmol, 4.00 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | 20 mmol, 1.8 mL | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1,5-diphenyl-1,5-pentanedione | yield is 27% | C1(=CC=CC=C1)C(CCCC(=O)C1=CC=CC=C1)=O | C17H16O2
